US05688795
A mixture of 2-fluoro-1-(4,5-dihydrooxazol-2-yl)benzene (4.5 g, 27.3 mmol) and nickel peroxide hydrate (7 g) in 40 mL of benzene was heated at reflux for 24 hours. The mixture was allowed to cool to room temperature, filtered and concentrated by rotary evaporation. The residue was purified on silica gel by column chromatography eluting with hexanes/ethyl acetate (5:1) to give 2-fluoro-1-oxazol-2-yl-benzene (0.5 g, 3.07 mmol).

reactant | 2-fluoro-1-(4,5-dihydrooxazol-2-yl)benzene | 27.3 mmol, 4.5 g | FC1=C(C=CC=C1)C=1OCCN1 | C9H8FNO
solvent | benzene | 40 mL | C1=CC=CC=C1 | C6H6
catalyst | nickel peroxide hydrate | 7 g | O.OO.[Ni]
product | 2-fluoro-1-oxazol-2-yl-benzene | 3.07 mmol, 0.5 g | FC1=C(C=CC=C1)C=1OC=CN1 | C9H6FNO
